US07417057B2
Step A Synthesis of 1-(Imidazolylmethoxy)-3,3-dimethyl-3-silabutane (xi) as an Intermediate
A stirred suspension of 1.2 grams of 60% sodium hydride (0.03 mole-in mineral oil) in 25 mL of THF was cooled to 0° C. to 5° C., and a solution of 2.0 grams (0.03 mole) of imidazole in 30 mL of THF was added dropwise. Upon completion of addition, the reaction mixture was stirred at 0° C. for an additional 15 minutes, then a solution of 4.7 grams (0.03 mole) of 2-(trimethylsilyl)ethoxymethyl chloride in 10 mL of THF was added dropwise. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature as it stirred during an 18 hour period. After this time, the reaction mixture was stirred with 50 mL of water, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous solution saturated with sodium chloride and was then dried with magnesium sulfate. The mixture was filtered and the filtrate was concentrated under reduced pressure to a residual oil. The residue was distilled under reduced pressure, yielding 3.8 grams of the subject compound; bp 71° C./0.1 torr. The NMR spectrum was consistent with the proposed structure.

reactant | sodium hydride | 0.03 mole, 1.2 grams | [H-].[Na+]
reactant | imidazole | 0.03 mole, 2.0 grams | N1C=NC=C1 | C3H4N2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.03 mole, 4.7 grams | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | water | 50 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(Imidazolylmethoxy)-3,3-dimethyl-3-silabutane | 3.8 grams | N1C(=NC=C1)COCC[Si](C)(C)C | C9H18N2OSi
